US04202902
Ethyl 2-octylcyclopropanecarboxylate (trans) (1)
A mixture of 60 g of ethyl diazoacetate and 100 g of decene was added drop-by-drop to a stirred suspension of 4 g of anhydrous copper sulfate in 700 g of decene, at 105° C. The addition required 1.5 hours. The mixture was stirred for an additional 2 hours, then filtered, and the filtrate was distilled, to give 1, as a liquid, bp: 107°-110° C. (0.1 Torr.).

reactant | ethyl diazoacetate | 60 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | decene | 700 g | C=CCCCCCCCC | C10H20
reactant | decene | 100 g | C=CCCCCCCCC | C10H20
catalyst | copper sulfate | 4 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | Ethyl 2-octylcyclopropanecarboxylate | C(CCCCCCC)C1C(C1)C(=O)OCC | C14H26O2
